US07691843B2
1-Allyl-2-methoxy-5-nitro-3-trifluoromethoxybenzene was prepared from 2-allyl-4-nitro-6-trifluoromethoxyphenol and methyl iodide by following Method C. The reaction was conducted at room temperature for 17 h. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (0-5%) as an eluent to give 1-allyl-2-methoxy-5-nitro-3-trifluoromethoxybenzene in 52% yield.

reactant | 2-allyl-4-nitro-6-trifluoromethoxyphenol | C(C=C)C1=C(C(=CC(=C1)[N+](=O)[O-])OC(F)(F)F)O | C10H8F3NO4
reactant | methyl iodide | CI | CH3I
product | 1-allyl-2-methoxy-5-nitro-3-trifluoromethoxybenzene | C(C=C)C1=C(C(=CC(=C1)[N+](=O)[O-])OC(F)(F)F)OC | C11H10F3NO4
